US04206217
5-Chloro-3-[4-(methylimidazolin-2-yl)-phenyl]-1,2-benzisothiazole hydrochloride
44 g of 5-chloro-3-(4'-chloromethylphenyl)-1,2-benzisothiazole, 9.6 g of sulfur and 22.5 g of 1,2-diaminopropane in 600 ml of toluene are refluxed for 24 hours. The reaction mixture is filtered hot and the filtrate is concentrated on a rotary evaporator. The residue is dissolved in 500 ml of ether and 30 g of hydrogen chloride gas are passed into the solution, whilst cooling. The resulting crystals are filtered off and recrystallized from water. 31 g of product melting, with decomposition, at 248° C., are obtained. The yield corresponds to 57% of theory.

reactant | 5-chloro-3-(4'-chloromethylphenyl)-1,2-benzisothiazole | 44 g | ClC=1C=CC2=C(C(=NS2)C2=CC=C(C=C2)CCl)C1 | C14H9Cl2NS
reactant | sulfur | 9.6 g | [S] | S
reactant | 1,2-diaminopropane | 22.5 g | NCC(C)N | C3H10N2
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-3-[4-(methylimidazolin-2-yl)-phenyl]-1,2-benzisothiazole hydrochloride | Cl.ClC=1C=CC2=C(C(=NS2)C2=CC=C(C=C2)C=2N(CCN2)C)C1 | InChI=1S/C17H14ClN3S.ClH/c1-21-9-8-19-17(21)12-4-2-11(3-5-12)16-14-10-13(18)6-7-15(14)22-20-16;/h2-7,10H,8-9H2,1H3;1H
